US08106086B2
Production of 3-(1-cyclobutylamino)-5,5-dimethyl-2-cyclohexen-1-one
To a toluene solution (30 ml) of 1,3-cyclohexanedione (1.40 g, 10.0 mmol), cyclopentylamine (782 mg, 11.0 mmol) and boron trifluoride diethyl ether complex (1.56 g, 11.0 mmol) were added at room temperature and the mixture was stirred under reflux for 14 hours. After concentrating the liquid reaction mixture under reduced pressure, a 5% aqueous sodium hydroxide solution was added. The liquid reaction mixture was extracted with ethyl acetate and concentrated under reduced pressure. The residue was purified by silica gel flash column chromatography. Thus, the title compound was obtained as a yellow oily product (1.64 g). 1HNMR (400 MHz, CDCl3, δ ppm): 1.06 (6H, s), 1.77-1.96 (4H, m), 2.17 (4H, d, J=7.3 Hz), 2.36-2.46 (2H, m), 3.85-3.95 (1H, m).

reactant | 1,3-cyclohexanedione | 10.0 mmol, 1.40 g | C1(CC(CCC1)=O)=O | C6H8O2
reactant | cyclopentylamine | 11.0 mmol, 782 mg | C1(CCCC1)N | C5H11N
reactant | sodium hydroxide | [OH-].[Na+]
reactant | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | 3-(1-cyclobutylamino)-5,5-dimethyl-2-cyclohexen-1-one | C1(CCC1)NC1=CC(CC(C1)(C)C)=O | C12H19NO
